US07696201B2
1′-cycloheptylspiro[benzo[d][1,3]oxazine-4,4′-piperidin]-2(1H)-one hydrochloride (compound No. 5) (188 mg, 0.54 mmol) was suspended in anhydrous dimethylformamide (4.0 mL), treated with sodium hydride (48 mg, 60% dispersion in mineral oil, 1.2 mmol) and stirred at room temperature for 10 minutes under nitrogen. The reaction mixture was then treated with a solution of methyl iodide (92 mg, 0.65 mmol) in anhydrous dimethylformamide (1.0 mL) and stirred at room temperature for 1 hour. The reaction mixture was diluted with water (50 mL), and the product was extracted in dichloromethane (2×50 mL). The pooled extracts were washed with water (2×10 mL), saturated NaHCO3, (2×10 mL) and saturated brine (2×10 mL); then dried over Na2SO4 and filtered. The filtrate was concentrated under reduced pressure to afford crude 1′-cycloheptyl-1-methylspiro[benzo[d][1,3]oxazine-4,4′-piperidin]-2(1H)-one (compound no. 65) free base as a colorless oil.

reactant | 1′-cycloheptylspiro[benzo[d][1,3]oxazine-4,4′-piperidin]-2(1H)-one hydrochloride | Cl.C1(CCCCCC1)N1CCC2(CC1)C1=C(NC(O2)=O)C=CC=C1
reactant | sodium hydride | 1.2 mmol, 48 mg | [H-].[Na+]
reactant | methyl iodide | 0.65 mmol, 92 mg | CI | CH3I
solvent | dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | 1′-cycloheptyl-1-methylspiro[benzo[d][1,3]oxazine-4,4′-piperidin]-2(1H)-one | C1(CCCCCC1)N1CCC2(CC1)C1=C(N(C(O2)=O)C)C=CC=C1 | C20H28N2O2
